US07517873B2
A mixture of 0.0449 g (0.000146 mole) of 2-chloro-9-cyclopentyl-8,9-dihydro-5-methylspiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-6(7H)-one (VII-53), 0.0222 g (0.00016 mole) of 4-amino-benzoic acid, 0.8 mL of ethanol, 3.2 mL of water and 3 drops of hydrochloric acid was heated at reflux for 17 hours. The mixture was cooled, and the precipitate which formed was collected by filtration to give 0.029 g of 4-[(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxospiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-2-yl)amino]-benzoic acid (I-62a) as a white solid.

reactant | 2-chloro-9-cyclopentyl-8,9-dihydro-5-methylspiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-6(7H)-one | 0.000146 mole, 0.0449 g | ClC=1N=CC2=C(N(CC3(CC3)C(N2C)=O)C2CCCC2)N1 | C15H19ClN4O
reactant | 4-amino-benzoic acid | 0.00016 mole, 0.0222 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | ethanol | 0.8 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | water | 3.2 mL | O | H2O
product | 4-[(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxospiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-2-yl)amino]-benzoic acid | 0.029 g | C1(CCCC1)N1C2=C(N(C(C3(CC3)C1)=O)C)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C22H25N5O3
